US06573389B1
Preparation of (R)-2,5-dimethyl-4-bromo-3-(1-hydroxyethyl)thiophene (Scheme 8)
3-Acetyl-4-bromo-2,5-dimethylthiophene (78.5 mmol) was reduced by means of Ipc2BCl in tetrahydrofuran using the general method of Brown et al. (J. Org. Chem. 1989, 54, 4504).

reactant | 3-Acetyl-4-bromo-2,5-dimethylthiophene | 78.5 mmol | C(C)(=O)C1=C(SC(=C1Br)C)C | C8H9BrOS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (R)-2,5-dimethyl-4-bromo-3-(1-hydroxyethyl)thiophene | CC=1SC(=C(C1[C@@H](C)O)Br)C | C8H11BrOS
